US05756507
Step 7.2A Ethylcarbamic acid 3-(2-[benzyloxycarbonyl-[4-(4-benzyloxyphenyl)butyl]amino]-ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl ester
To a solution of [4-(4-benzyloxyphenyl)-butyl]-[2-[2-(3,5-dimethylphenyl)-5-hydroxy-1H-indol-3-yl]ethyl]carbamic acid benzyl ester (50 mg in 0.5 mL dry tetrahydrofuran) was added 0.035 mL of ethyl isocyanate and the mixture stirred at room temperature. Over the course of 2 weeks, additional ethyl isocyanate was added in portions and the mixture heated to reflux for several days after which time it was cooled to room temperature, concentrated in vacuo and purified by flash chromatography on silica gel (hexane:ethyl acetate, 2:1) to give the title compound (20 mg).

reactant | [4-(4-benzyloxyphenyl)-butyl]-[2-[2-(3,5-dimethylphenyl)-5-hydroxy-1H-indol-3-yl]ethyl]carbamic acid benzyl ester | 0.5 mL, 50 mg | C(C1=CC=CC=C1)OC(N(CCC1=C(NC2=CC=C(C=C12)O)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C43H44N2O4
reactant | ethyl isocyanate | 0.035 mL | C(C)N=C=O | C3H5NO
product | Ethylcarbamic acid 3-(2-[benzyloxycarbonyl-[4-(4-benzyloxyphenyl)butyl]amino]-ethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl ester | 20 mg | C(C1=CC=CC=C1)OC(=O)N(CCC1=C(NC2=CC=C(C=C12)OC(NCC)=O)C1=CC(=CC(=C1)C)C)CCCCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C46H49N3O5
